US08026234B2
Compound 12: 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-(2-(pyrrolidin-1-yl)acetyl)piperidin-4-yl)benzamide
The title compound was synthesized from (R)-4-(9-cyclohexyl-7-fluoro-7-vinyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and 1-Boc-4-aminopiperidine. Further, after washing with water (10 ml), t-butoxycarbonyl (Boc) protection group was removed using 40% TFA in dichloromethane (6 ml). The resulting product was further acylated using 2-(pyrrolidin-1-yl)acetyl chloride. The title product using preparative HPLC and neutralized with bicarbonate. 1H NMR (400 MHz, DMF) δ ppm 1.53-2.30 (m, 18H) 2.79-3.01 (m, 2H) 3.21-3.47 (m, 5H) 4.17 (s, 3H) 4.21-4.41 (m, 6H) 4.59 (d, J=12.13 Hz, 1H) 5.00 (t, J=8.34 Hz, 1H) 7.71 (d, J=1.77 Hz, 2H) 8.21 (s, 1H) 8.40 (d, J=7.83 Hz, 1H) 8.50 (s, 2H). [M+H] calc'd for C32H42F2N8O4, 641. found 641.

reactant | (R)-4-(9-cyclohexyl-7-fluoro-7-vinyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C([C@](C1)(C=C)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C24H28FN5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-Boc-4-aminopiperidine | C(=O)(OC(C)(C)C)N1CCC(CC1)N | C10H20N2O2
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-(2-(pyrrolidin-1-yl)acetyl)piperidin-4-yl)benzamide | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C(CN1CCCC1)=O)C=C2)OC | C32H42F2N8O4
